US08669271B2
4-{2-[5-Chloro-2-(4-methanesulfonyl-piperazin-1-yl)-pyrimidin-4-yl]-1-hydroxy-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-[2-(2,5-dichloro-pyrimidin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester (100 mg), 1-methanesulfonyl-piperazine hydrochloride (70 mg), potassium carbonate (100 mg), and N,N-dimethylformamide (1 mL) is stirred for 4 h at 60° C. After cooling to room temperature ethyl acetate is added. The organic phase is separated, washed with water and brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 50:50→0:100) to give the title compound. LC (method 7): tR=1.46 min; Mass spectrum (ESI+): m/z=504 [M+H]+.

reactant | 4-[2-(2,5-dichloro-pyrimidin-4-yl)-1-hydroxy-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=NC(=NC=C1Cl)Cl)O | C16H23Cl2N3O3
reactant | 1-methanesulfonyl-piperazine hydrochloride | 70 mg | Cl.CS(=O)(=O)N1CCNCC1
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[5-Chloro-2-(4-methanesulfonyl-piperazin-1-yl)-pyrimidin-4-yl]-1-hydroxy-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=NC(=NC=C1Cl)N1CCN(CC1)S(=O)(=O)C)O | C21H34ClN5O5S
